US04460596
One g of 2-[2-(4-fluorophenyl)-5-(3-thienyl)-4-oxazolyl]acetic acid, 0.93 g of 2-chloro-1-methyl-pyridinium iodide and 0.2 g of isopropanol are dissolved in 40 ml of tetrahydrofuran, and 0.66 g of triethylamine is added dropwise thereto. The mixture is stirred at room temperature for 18 hours. Then, water is added to the reaction mixture, and said mixture is condensed under reduced pressure to remove tetrahydrofuran. The residue is extracted with ethyl acetate, and the extract is washed with an aqueous 20% citric acid solution, an aqueous sodium bicarbonate solution and water, successively. Said extract is dried and then condensed to remove solvent, and the residue is recrystallized from ethanol. 0.85 g of isopropyl 2-[2-(4-fluorophenyl)-5-(3-thienyl)-4-oxazolyl]acetate is thereby obtained.

reactant | 2-[2-(4-fluorophenyl)-5-(3-thienyl)-4-oxazolyl]acetic acid | FC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)O)C1=CSC=C1 | C15H10FNO3S
reactant | 2-chloro-1-methyl-pyridinium iodide | 0.93 g | [I-].ClC1=[N+](C=CC=C1)C
reactant | isopropanol | 0.2 g | C(C)(C)O | C3H8O
reactant | triethylamine | 0.66 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | isopropyl 2-[2-(4-fluorophenyl)-5-(3-thienyl)-4-oxazolyl]acetate | 0.85 g, Yield: 74.6% | FC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OC(C)C)C1=CSC=C1 | C18H16FNO3S
